US07855166B2
2-Hydroxy-6-iodobenzenesulfonamide (Example 2.300a)
0.50 g (1.60 mmol) of 2-iodo-6-methoxybenzenesulfonamide are introduced in 10 ml of dichloromethane at room temperature and this initial charge is cautiously admixed with 0.6 g (2.40 mmol) of boron tribromide. The reaction solution is stirred at room temperature for a further 45 min and then added to 2 N hydrochloric acid. Following extraction with dichloromethane, the organic phase is dried and evaporated. This gives 0.43 g (90% of theory) of 2-hydroxy-6-iodobenzenesulfonamide.

reactant | 2-iodo-6-methoxybenzenesulfonamide | 1.60 mmol, 0.50 g | IC1=C(C(=CC=C1)OC)S(=O)(=O)N | C7H8INO3S
reactant | boron tribromide | 2.40 mmol, 0.6 g | B(Br)(Br)Br | BBr3
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2-Hydroxy-6-iodobenzenesulfonamide | OC1=C(C(=CC=C1)I)S(=O)(=O)N | C6H6INO3S
